US04625048
A mixture of 6.13 g of p-(m-fluorophenoxy)phenol, 2.79 g of propylene oxide and 0.12 g of triethylamine is stirred at 90° C. for 18 hours. The cooled mixture is subsequently diluted with 100 ml of diethyl ether and washed successively twice with 50 ml of 2N hydrochloric acid each time, three times with 50 ml of 2N sodium hydroxide each time, with 50 ml of water and with 50 ml of saturated sodium chloride solution. After drying over anhydrous sodium sulfate and evaporation there is obtained 1-[p-(m-fluorophenoxy)phenoxy]-2-propanol of melting point 37°-39° C.

reactant | p-(m-fluorophenoxy)phenol | 6.13 g | FC=1C=C(OC2=CC=C(C=C2)O)C=CC1 | C12H9FO2
reactant | propylene oxide | 2.79 g | C1C(C)O1 | C3H6O
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-[p-(m-fluorophenoxy)phenoxy]-2-propanol | FC=1C=C(OC2=CC=C(OCC(C)O)C=C2)C=CC1 | C15H15FO3
